US07485665B2
457 g of methanesulfonyl chloride was added dropwise to a solution of 1020 g of N-acetyl-4-hydroxy-L-proline ethyl ester, 435 g of triethylamine and 1.9 L of chloroform at not higher than 15° C. while cooling. After stirring for 30 minutes, 1N hydrochloric acid (0.6 L) was added, and the layers were separated. The organic layer was washed with 5% aqueous sodium bicarbonate (600 g), washed with water (0.6 L), dried over magnesium sulfate, and concentrated under reduced pressure to obtain 802 g of N-acetyl-4-mesyloxy-L-proline ethyl ester as an oil.

reactant | methanesulfonyl chloride | 457 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-acetyl-4-hydroxy-L-proline ethyl ester | 1020 g | C(C)OC([C@H]1N(CC(C1)O)C(C)=O)=O | C9H15NO4
reactant | triethylamine | 435 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N, 0.6 L | Cl | ClH
solvent | chloroform | 1.9 L | C(Cl)(Cl)Cl | CHCl3
product | N-acetyl-4-mesyloxy-L-proline ethyl ester | 802 g | C(C)OC([C@H]1N(CC(C1)OS(=O)(=O)C)C(C)=O)=O | C10H17NO6S
